US06451804B1
[1-(2,2,2-Trifluoroethyl)piperidin-4-yl]-carbamic acid tert-butyl ester was then taken up in dioxane (80 mL) and hydrogen chloride gas was bubbled through the solution for 10 minutes. The reaction vessel was capped tightly and stirred for 1.5 hours. The solvent was removed under reduced pressure at 40° C. The residue was taken up in 42 mL of 0.5M sodium methoxide in methanol, stirred at room temperature for 3 hours, and filtered. The filtrate was concentrated, taken up in ethyl acetate, filtered, and concentrated to give 1.0 g of 1-(2,2,2-trifluoroethyl)piperidin-4-ylamine as a dark colored oil, (M+H)+=183.

reactant | [1-(2,2,2-Trifluoroethyl)piperidin-4-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCN(CC1)CC(F)(F)F)=O | C12H21F3N2O2
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | 1-(2,2,2-trifluoroethyl)piperidin-4-ylamine | 1.0 g | FC(CN1CCC(CC1)N)(F)F | C7H13F3N2
